US07838483B2
A solution of 3-(phenylamino)propanenitrile (1 g, 6.84 mmol) and NH2OH (50% in water, 0.63 cm3, 10.26 mmol) in EtOH (10 cm3) were heated to reflux for 24 hours, after which the solvent and excess hydroxylamine were removed by rotary evaporator. To the residue was added water (10 cm3) and the mixture was extracted with CH2Cl2 (100 cm3). The extracts were concentrated under reduced pressure and the residue was purified by column chromatography (silica, Et2O) to give N′-hydroxy-3-(phenylamino)propanimidamide (0.77 g, 62.8%) as a white solid, mp 93-95° C. (lit mp 91-91.5° C.).

reactant | 3-(phenylamino)propanenitrile | 6.84 mmol, 1 g | C1(=CC=CC=C1)NCCC#N | C9H10N2
reactant | NH2OH | 10.26 mmol, 0.63 cm3 | NO | H3NO
solvent | EtOH | 10 cm3 | CCO | C2H6O
product | N′-hydroxy-3-(phenylamino)propanimidamide | 0.77 g, 62.8% | ON=C(CCNC1=CC=CC=C1)N | C9H13N3O
